US06093816
Dimyristylamine ((n-C14H29)2NH).
N-myristyl myristamide (0.90 g; 2.1 mmole) was treated with borane THF (5 mL of 1 M solution, 5.0 mmole) and reacted at reflux for 3 hrs. The reaction mixture was carefully neutralized with 3N HCl aqueous solution and stirred at 50° C. for 20 min., the back neutralized with 2N NaOH aqueous solution. The mixture was concentrated, then partitioned between CH2Cl2 and saturated NaHCO3 aqueous solution, dried and concentrated, affording 0.93 g of product. NMR (CDCl3): δ 2.59 (t, 2H, J=7.2 Hz), 1.40-1.55 (m, 2H), 1.15-1.40 (m, 22H), 0.88 (t, 3H, J=6.8 Hz).

reactant | N-myristyl myristamide | 2.1 mmole, 0.90 g | C(CCCCCCCCCCCCC)NC(CCCCCCCCCCCCC)=O | C28H57NO
reactant | borane THF | 5.0 mmole, 1 M, 5 mL | B.C1CCOC1
reactant | HCl | 3N | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
product | Dimyristylamine | 0.93 g | C(CCCCCCCCCCCCC)NCCCCCCCCCCCCCC | C28H59N
